US08026257B2
(R)-3,5-Dichloro-7-(1-((4-(4-fluorophenyl)piperidin-4-yl)methoxy)ethyl)-1H-indazole was suspended in acetonitrile (40 mL) and treated with formalin (1 mL). The reaction was treated with sodium cyanoborohydride (0.83 g, 13.2 mmol). The reaction was treated with ca. 0.5 mL acetic acid over ca. 10 min. The reaction was treated with tetrahydrofuran (20 mL), and additional portions of formalin (0.5 mL) and sodium cyanoborohydride (0.2 g) and stirred for 30 min. The reaction was concentrated to remove most of the organics (but not to dryness), partitioned between a minimum of dichloromethane/saturated sodium bicarbonate, and poured into a separatory funnel. The mixture was diluted with diethyl ether and the layers separated. The organics were washed with brine, dried over magnesium sulfate, and concentrated. The resulting residue was dissolved in ethanol (125 mL) and heated at reflux for 30 h. The reaction was concentrated to give viscous foam. The crude product was pumped on high vaccuum overnight. The resulting solid was dissolved in methanol and loaded onto a phenomenex strata strong cation exchange cartridge (giga tube, 20 g/60 mL). The tube was flushed with several volumes of methanol which were discarded. The product was eluted with 2 M ammonia in methanol to give the crude product (3.5 g). The material was dissolved in 15 mL of isopropanol at 60° C. and water added until the mixture went cloudy (only about 9 mL water). The mixture was seeded with a crystal of product. At first the material appeared to oil out, but it was stirred vigorously for a couple of minutes which gave a white precipitate. An additional 6 mL of water was added. The mixture was incubated at 50° C. for 2 h (occasionally stirring to agitate the bed of product). The material was warmed to 60° C., incubated at that temperature for 15 min, and then re-cooled to 50° C. and incubated at that temperature 2 h longer. The suspension was allowed to gradually warm to room temperature in the water bath and was filtered. The resulting precipitate was rinsed with cold 1:1 isopropanol/water and air dried to give crystalline freebase (2.45 g, 64%). 1H-NMR (CDCl3, 500 MHz) δ 9.50 (bs, 1H), 7.51 (d, J=1.8 Hz, 1H), 7.26 (dd, J=8.8, 5.2 Hz, 2H), 7.07 (dd, J=8.8, 8.6 Hz, 2H), 7.02 (d, J=1.8 Hz, 1H), 4.50 (q, J=6.6 Hz, 1H), 3.43 (d, J=8.7 Hz, 1H), 3.29 (d, J=8.7 Hz, 1H), 2.59 (m, 1H), 2.53 (m, 1H), 2.29 (m, 1H), 2.21 (s, 3H), 2.20 (m, 1H), 2.12 (m, 1H), 2.09 (m, 1H), 1.99 (m, 1H), 1.90 (m, 1H), 1.41 (d, J=6.6 Hz, 3H); 13C NMR (126 MHz, CDCl3) δ ppm 161.5 (d, J=247 Hz), 139.1, 137.0, 134.3, 128.6 (d, J=7.8 Hz), 128.3, 126.9, 125.2, 122.1, 117.7, 115.6 (d, J=21 Hz), 78.9, 78.1, 51.8, 51.7, 46.2, 40.3, 32.9, 32.6, 22.1. Mass spec.: 436.1 (MH)+. A portion of the material was converted to the hydrochloride salt by suspending the product (1.2 g, 2.75 mmol) in ethanol (10 mL), cooling to 0° C., and treatment with ethanolic hydrochloric acid (1.25M, 2.2 mL). The mixture was concentrated to give (R)-3,5-dichloro-7-(1-((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)ethyl)-1H-indazole hydrochloride (1.30 g, 100%). 1H-NMR (CD3OD, 500 MHz) δ 7.46 (m, 1H), 7.40 (dd, J=9.2, 5.2 Hz, 1.5H), 7.31 (dd, J=8.9, 5.2 Hz, 0.5H), 7.08 (dd, J=8.9, 8.5 Hz, 1.5H), 6.98 (m, 1.2 H), 6.93 (d, J=1.5 Hz, 0.3H), 4.68 (q, J=6.4 Hz, 0.3H), 4.63 (q, J=6.7 Hz, 0.7H), 3.82 (d, J=9.8 Hz, 0.2H), 3.59 (q, J=7.0 Hz, 0.3H), 3.37-3.52 (m, 3H), 3.36 (d, J=9.2 Hz, 1H), 3.21 (d, J=9.2 Hz, 1H), 2.90 (s, 0.7H), 2.80 (m, 1.7H), 2.73 (s, 2.2H), 2.61 (m, 1.8H), 2.41 (m, 0.2H), 1.95-2.25 (m, 2H), 1.43 (m, 3H), 1.15 (m, 1.6H); 13C NMR (126 MHz, CD3OD) δ ppm 162.3 (d, J=246 Hz), 162.0 (d, J=245 Hz), 141.1, 137.6, 135.5, 133.5, 129.4 (d, J=8.6 Hz), 129.14, 129.05, 127.8 (d, J=7.7 Hz), 12.72, 125.3, 125.1, 121.7, 117.24, 117.20, 115.8 (d, J=21 Hz), 115.0 (d, J=21 Hz), 79.0, 75.99, 75.85, 72.7, 65.9, 57.4, 51.5, 51.4, 50.84, 50.76, 42.8, 42.2, 40.5, 38.1, 30.1, 29.9, 29.5, 29.1, 21.20, 21.16, 17.4, 14.5.

reactant | (R)-3,5-Dichloro-7-(1-((4-(4-fluorophenyl)piperidin-4-yl)methoxy)ethyl)-1H-indazole | ClC1=NNC2=C(C=C(C=C12)Cl)[C@@H](C)OCC1(CCNCC1)C1=CC=C(C=C1)F | C21H22Cl2FN3O
reactant | formalin | 1 mL | C=O | CH2O
reactant | sodium cyanoborohydride | 13.2 mmol, 0.83 g | C(#N)[BH3-].[Na+]
reactant | formalin | 0.5 mL | C=O | CH2O
reactant | sodium cyanoborohydride | 0.2 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 1.25M, 2.2 mL | Cl | ClH
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
solvent | methanol | CO | CH4O
solvent | isopropanol | 15 mL | C(C)(C)O | C3H8O
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | O | H2O
solvent | water | 6 mL | O | H2O
solvent | water | about 9 mL | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | acetic acid | ca. 0.5 mL | C(C)(=O)O | C2H4O2
product | (R)-3,5-dichloro-7-(1-((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)ethyl)-1H-indazole hydrochloride | 1.30 g, 100% | Cl.ClC1=NNC2=C(C=C(C=C12)Cl)[C@@H](C)OCC1(CCN(CC1)C)C1=CC=C(C=C1)F | InChI=1S/C22H24Cl2FN3O.ClH/c1-14(18-11-16(23)12-19-20(18)26-27-21(19)24)29-13-22(7-9-28(2)10-8-22)15-3-5-17(25)6-4-15;/h3-6,11-12,14H,7-10,13H2,1-2H3,(H,26,27);1H/t14-;/m1./s1
